US05541178
A solution of methyl 4-carboxy-3-nitrobenzoate (3 g, 13.3 mM) in ethanol (20 ml) was hydrogenated at atmospheric pressure in the presence of 10% palladium-carbon (1 g) for 40 minutes. After filtration of the catalyst, the solid was recrystallised from ethanol to give methyl 3-amino-4-carboxybenzoate (1.7 g, 65%).

reactant | methyl 4-carboxy-3-nitrobenzoate | 13.3 mM, 3 g | C(=O)(O)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H7NO6
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 1 g | [C].[Pd]
product | methyl 3-amino-4-carboxybenzoate | 1.7 g, 65% | NC=1C=C(C(=O)OC)C=CC1C(=O)O | C9H9NO4
